Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrochlorothiazide / metformin
 
Attending: ___.
 
Chief Complaint:
Abd Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a pleasant ___ w/ Asthma, HTN, NIDDM, GERD, morbid
obesity and h/o hysterectomy who p/w worsening of her chronic
abdominal pain. 

Pt states pain is localized to her lower abdomen along her
inguinal area, b/l and suprapubic area. It started off as barely
noticeable several months after her laparoscopic hysterectomy in
___, which she had done for fibroids. 

Over the course of the past few years, the pain has become more
progressive. It was only present after moving her bowels. She
moves her bowels TID and denies any constipation or difficulty
moving her bowels. 

Sometimes the pain is persistent after moving her bowels, and it
improves with liquid diet and fasting for a short period of 
time.

She denies any dysuria and thinks she may have some degree of
dyspareunia. She also denied any significant bloating. Denied 
any
vaginal bleeding nor discharge. She no longer has menses; she
thinks she may still have a cervix. 

She has seen her PCP for this problem, including GI and GYN, and
the workup has been benign, including a colonoscopy. 

Over the past 3 weeks, her pain has been a ___, persistent, 
and
she has been unable to tolerate PO and nauseated from the pain.
She admits to vomiting. Took apap and ibuprofen w/o relief.

She presented to ED back ___ for this problem, and about one
week ago ___ and had an unremarkable abdominal CT scan. She
received Toradol which helped her pain but then the pain 
returned
and is currently ___. 

On this visit in the ED, she received 1L NS, Ketorolac, APAP, 
and
Morphine. Pelvis US and abdominal doppler benign. Pain improved
to ___ and patient was noted to be hungry. ED notes that she
declined pelvic exam. 

REVIEW OF SYSTEMS:
10 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

 
Past Medical History:
- Asthma, Intermittent
- HTN
- Obesity
- T2DM
- GERD

 
Social History:
___
Family History:
- father alive w/ diabetes
- mother alive w/ asthma, cad, pvd, hcv

 
Physical Exam:
Admission:
VITAL SIGNS: ___ 137/70 81 18 100% RA
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions, no cervical/supraclavicular
adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  obese, BS+, soft, NTND, no palpable masses or HSM, + TTP 
in
inguinal folds and suprapubic area w/o R/R/G
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal
PSYCH: Flat affect, thought process logical, linear, future
oriented

Discharge:
VITAL SIGNS: 98.3 F 130/70 78 18 99% RA
General:  NAD, obese, resting in bed comfortably
HEENT:  MMM, no OP lesions
CV:  RRR, NL S1S2 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  obese, BS+, soft, NTND, no palpable masses or HSM, + TTP 
in
inguinal folds and suprapubic area w/o R/R/G
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal
PSYCH: Flat affect, thought process logical, linear, future
oriented
 
Pertinent Results:
___ 01:29PM URINE  ___ 
___ 
___
___ 01:29PM URINE  ___ 
EPI-<1 TRANS EPI-<1
___ 12:30PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 12:30PM   ALT(SGPT)-18 AST(SGOT)-22 LD(LDH)-162 ALK 
___ TOT ___
___ 12:30PM   ___
___ 12:30PM   ___ 
___

Pelvic ultrasound ___:
FINDINGS:  
The uterus is surgically absent.  The right ovary is seen 
appearing normal in size and grayscale appearance.  .  There is 
a simple cyst in the right ovary measuring up to 1.8 cm in 
greatest diameter.  The left ovary is not visualized but appears 
normal on comparison study upon further review.  There is no 
free fluid in the pelvis. 
  
IMPRESSION: 
  
  
1. Small cyst in the right ovary, likely physiologic. 
2. Status post hysterectomy. 
3. Left ovary nonvisualized. 

 
Brief Hospital Course:
___ w/ intermittent asthma, HTN, NIDDM, GERD, morbid obesity and 
h/o hysterectomy for fibroids who p/w subacute worsening of her 
chronic pelvic pain.

# Subacute on Chronic Pelvic Pain 
Pain is localized to her lower abdominal/inguinal area. Started 
after laparoscopic hysterectomy in ___ and gradually worsening 
since. CT abd/pelv performed on ___ during prior ER visit and 
pelvic US performed during this visit benign. Prior outpatient 
EGD and colonoscopy benign. Most common causes of CPP are 
endometriosis, pelvic adhesions, pelvic varices, interstitial 
cystitis, and irritable bowel syndrome. Her pain is worse after 
moving bowels and improves with bowel rest, most likely 
adhesions. No symptoms or signs of acute bowel obstruction but 
she reports her symptoms to improve somewhat after a fast and a 
clear liquid diet.  Bloodwork unremarkable, no weight loss or 
other concerning symptoms.  She demanded further inpatient 
___.  GYN was consulted and performed a pelvic exam which 
was unremarkable, they felt the pain was unlikely due to 
endometriosis or another GYN source.  She demanded for 
colorectal surgery to see her but then requested to leave prior 
to being evaluated by them. Discussed at length with her the 
importance of outpatient ___ and recommendation of seeing 
a pain specialist but she is not interested in seeing a pain 
specialist.  
- F/u with PCP
- ___ outpatient ___ with PCP and following up with 
Dr. ___ had performed her hysterectomy.
- Discharged with short course of Percocet until ___ with 
PCP.

# T2DM: held glimepiride and placed on ISS while inpatient.  
Discharged on home meds.
# HTN: cont amlodipine, lasix, lisinopril
# Anemia: Normal MCV. Chronic and stable since since ___. 
# GERD: cont omeprazole

FEN: regular
PAIN: as above
DVT PROPHYLAXIS: Low Risk, ambulate frequently
ACCESS: PIV 
CODE STATUS: Full code, presumed
PCP: ___, MD
DISPO: home without services

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH DAILY:PRN SOB 
2. Furosemide 40 mg PO DAILY 
3. Caduet ___ mg oral DAILY 
4. glimepiride 4 mg oral daily with breakfast 
5. Omeprazole 20 mg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
2. Furosemide 40 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Caduet ___ mg oral DAILY 
7. Fluticasone Propionate 110mcg 2 PUFF IH DAILY:PRN SOB 
8. glimepiride 4 mg oral daily with breakfast 
9. ___ TAB PO Q6H:PRN pain 
RX ___ 5 ___ mg ___ tablet(s) by mouth 
every six (6) hours Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic abdominal pain.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with worsening of your chronic lower abdominal 
pain.  You underwent a pelvic US which showed no cause for your 
pain and you were evaluated by GYN who felt that your pain was 
not due to a gynecologic cause.  You asked to be seen by 
colorectal surgery but then wanted to leave before being seen by 
them.  Please ___ closely with your primary care doctor.  
We recommend following up with a pain specialist and with Dr. 
___ had performed your hysterectomy.
 
Followup Instructions:
___